US04960776
N-(1-Ethyl-3-piperidinyl)-4-phenyl-1-piperazinecarboxamide.
This compound was prepared according to the procedure of Example 5. A mixture of 5.7 g (0.035 mole) of 1,1'-carbonyldiimidazole, 4.4 g (0.034 mole) of 3-amino-1-ethylpiperidine and 4.9 g (0.030 mole) of 1-phenylpiperazine in a total of 200 ml of tetrahydrofuran gave 6.2 g (65%) of white solid, m.p. 100°-103° C. (diisopropyl ether).

reactant | 1,1'-carbonyldiimidazole | 0.035 mole, 5.7 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-amino-1-ethylpiperidine | 0.034 mole, 4.4 g | NC1CN(CCC1)CC | C7H16N2
reactant | 1-phenylpiperazine | 0.030 mole, 4.9 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | N-(1-Ethyl-3-piperidinyl)-4-phenyl-1-piperazinecarboxamide | 6.2 g, 65% | C(C)N1CC(CCC1)NC(=O)N1CCN(CC1)C1=CC=CC=C1 | C18H28N4O
